US07504413B2
(4R)-4-[({3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)amino]-5-[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pentanoic acid
To a solution of 1,1-dimethylethyl (4R)-4-(([(1,1-dimethylethyl)oxy]carbonyl}amino)-5-[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pentanoate (1.35 g, 2.82 mmol) in CH2Cl2 (14 mL) was added trifluoroacetic acid (10 mL) followed by triethylsilane (2.5 equiv, 7.04 mmol). The reaction was stirred for 45 minutes at room temperature and then concentrated in vacuo. DMF (35 mL) was added to the residue followed by diisopropylamine (14.7 mL, 84.51 mmol) under nitrogen. The reaction was stirred for 5 minutes and pentafluorophenyl 3-chloro-4-[(1-methylethyl)oxy]benzoate (1.1 equiv, 3.10 mmol) was added. The reaction was stirred for 45 minutes and then concentrated in vacuo. Ethyl acetate (50 mL) was added to the residue and it was washed with H2O (30 mL). The aqueous layer was extracted with EtOAc (20 mL) and the combined organic layers were dried over MgSO4 and concentrated in vacuo. Purification by silica gel chromatography (Analogix IF280, 25-100% EtOAc/hexanes) provided the title compound as a white foamy solid (61%). ESMS [M+H]+=520.2.

reactant | 1,1-dimethylethyl (4R)-4-(([(1,1-dimethylethyl)oxy]carbonyl}amino)-5-[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pentanoate | 2.82 mmol, 1.35 g | CC(C)(C)OC(=O)N[C@H](CCC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C28H37N3O4
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 7.04 mmol, 2.5 equiv | C(C)[SiH](CC)CC | C6H16Si
reactant | diisopropylamine | 84.51 mmol, 14.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | pentafluorophenyl 3-chloro-4-[(1-methylethyl)oxy]benzoate | 3.10 mmol, 1.1 equiv | ClC=1C=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC1OC(C)C | C16H10ClF5O3
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
product | (4R)-4-[({3-chloro-4-[(1-methylethyl)oxy]phenyl}carbonyl)amino]-5-[4-(8-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pentanoic acid | 61% | ClC=1C=C(C=CC1OC(C)C)C(=O)N[C@H](CCC(=O)O)CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C29H30ClN3O4
